US06794389B2
(1R,2S)-N-[N,N′-Bis(tert-butoxycarbonyl)]amidino-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine
A solution of 366 mg of N,N-diisopropylethylamine in 10 mL of methylene chloride was combined with 60 mg of 4-dimethylaminopyridine and 0.156 mL of 4-chlorobenzoyl chloride. This was treated dropwise with a solution of 500 mg of (1R,2S)-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-(2-amino-6-methoxyquinazolin-4-yl)aminocyclohexylamine in 10 mL of methylene chloride, and stirred at room temperature for 3 hours. The reaction solution was combined with water, extracted with methylene chloride, and dried. After the solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain 560 mg of the desirable compound.

reactant | N,N-diisopropylethylamine | 366 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chlorobenzoyl chloride | 0.156 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | (1R,2S)-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-(2-amino-6-methoxyquinazolin-4-yl)aminocyclohexylamine | 500 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)N | C26H39N7O5
reactant | water | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 60 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S)-N-[N,N′-Bis(tert-butoxycarbonyl)]amidino-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 560 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NC(C1=CC=C(C=C1)Cl)=O | C33H42ClN7O6
